US05367081
Synthesis of methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitro-phenyl)-5-[N-[(pyrrolidin-1-yl)carbonylmethyl]carbamoyl]pyridine-3-carboxylate:
618 mg (3 mmol) of 1,3-dicyclohexylcarbodiimide was added to a mixture of 776 mg (2 mmol) of 2-[N-[1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)pyridine-3carbonyl]amino acetic acid, 298 mg (2.2 mmol) of 1-hydroxybenzotriazole, 142 mg (2 mmol) of pyrrolidine and 20 ml of dichloromethane in a light-shielding condition. The mixture was stirred at room temperature overnight. After washing with water, the reaction mixture was dried over anhydrous sodium sulfate, whereby 442 mg (50%) of the captioned compound was obtained as an oily material.

reactant | 1,3-dicyclohexylcarbodiimide | 3 mmol, 618 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-[1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)pyridine-3carbonyl]amino acetic acid | CC=1NC(=C(C(C1C(=O)NCC(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C18H19N3O7
reactant | 1-hydroxybenzotriazole | 2.2 mmol, 298 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | pyrrolidine | 2 mmol, 142 mg | N1CCCC1 | C4H9N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitro-phenyl)-5-[N-[(pyrrolidin-1-yl)carbonylmethyl]carbamoyl]pyridine-3-carboxylate | 442 mg, 50% | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(NCC(=O)N1CCCC1)=O)C | C22H26N4O6
